US06660752B2
Preparation of 1-(3-bromophenyl)-5-hydroxy-4-methyl-1,2-dihydro-3H-pyrazol-3-one
To a suspension of 1-(3-bromophenyl)hydrazine hydrochloride (1.0 g, 4.47 mmol) in ethanol (8.9 mL) was added dropwise 2.0 M sodium ethoxide in ethanol (0.77 mL, 9.84 mmol, 2.2 eq.). Diethyl 2-methylmalonate (0.85 mL, 4.92 mmol, 1.1 eq.) was then added. The reaction mixture was stirred at 90° C. for 16 hours and then quenched with 2 N aqueous hydrochloric acid (50 mL). The reaction was extracted with ethyl acetate (3×50 mL), and the combined organic layers were dried (MgSO4), filtered, and evaporated under reduced pressure. Purification using MPLC (Biotage) eluted with 3:1 v/v ethyl acetate-hexane gave the desired product as a white solid (125 mg, 0.46 mmol, 10.4% yield). MS LC-MS (ES MH+=269/271); TLC (Rf=0.10, 50% ethyl acetate-hexane).

reactant | 1-(3-bromophenyl)hydrazine hydrochloride | 4.47 mmol, 1.0 g | Cl.BrC=1C=C(C=CC1)NN
reactant | sodium ethoxide | 2.0 M | [O-]CC.[Na+]
reactant | Diethyl 2-methylmalonate | 4.92 mmol, 0.85 mL, 1.1 eq. | CC(C(=O)OCC)C(=O)OCC | C8H14O4
solvent | ethanol | 8.9 mL | C(C)O | C2H6O
solvent | ethanol | 9.84 mmol, 0.77 mL, 2.2 eq. | C(C)O | C2H6O
product | 1-(3-bromophenyl)-5-hydroxy-4-methyl-1,2-dihydro-3H-pyrazol-3-one | 0.46 mmol, 125 mg, 10.4% yield | BrC=1C=C(C=CC1)N1NC(C(=C1O)C)=O | C10H9BrN2O2
